US05250517
A mixture of 313 mg 1.18 mmol) of t-butoxycarbonyl-L-phenylalanine. 460 mg (1.18 mmol) of (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide, 0.15 ml (1.18 mmol) of 4-ethylmorpholine, 320 mg (2.36 mmol) of HOBT and 292 mg (1.42 mmol) of DCC in 20 ml of dimethylformamide was stirred at room temperature overnight. Thereafter, the separated precipitate was filtered off and the solvent was evaporated in a high vacuum. The residue was dissolved in ethyl acetate and then washed in succession with 2N sodium bicarbonate solution, saturated ammonium chloride solution, again with 2N sodium bicarbonate solution and again with saturated ammonium chloride solution. After drying the organic solution over sodium sulfate, the solvent was evaporated under reduced pressure and, for purification, the residue (870 mg) was chromatographed on 30 g of silica gel using a 20:1:0.1 mixture of methylene chloride, methanol and ammonia as the eluting agent. Crystallization of the thus-obtained crude product from methylene chloride/ether yielded 410 mg of t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]-carbamoyl]phenethyl]carbamate, melting point 161°.

reactant | t-butoxycarbonyl-L-phenylalanine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 1.18 mmol, 460 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H38N4O2
reactant | 4-ethylmorpholine | 1.18 mmol, 0.15 ml | C(C)N1CCOCC1 | C6H13NO
reactant | HOBT | 2.36 mmol, 320 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 1.42 mmol, 292 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]-carbamoyl]phenethyl]carbamate | 410 mg | C1(CCCCC1)C[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C36H55N5O5
